US07772262B2
f) N-[4-(3,3-Dimethyl-1,1-dioxo-isothiazolidin-2-yl)-5-methanesulfonyl-2-methylbenzoyl]guanidine, hydrochloride
22.5 mg of N-[4-(3,3-dimethyl-1,1-dioxoisothiazolidin-2-yl)-5-methanesulfonyl-2-methylbenzoyl]guanidine were taken up in 5 ml of acetone, and 0.5 ml of a 4N aqueous HCl solution was added. The volatile constituents were removed in vacuo and then coevaporated 3 times with 5 ml of toluene each time. 23.9 mg of an amorphous solid were obtained.

reactant | N-[4-(3,3-dimethyl-1,1-dioxoisothiazolidin-2-yl)-5-methanesulfonyl-2-methylbenzoyl]guanidine | 22.5 mg | CC1(N(S(CC1)(=O)=O)C1=CC(=C(C(=O)NC(=N)N)C=C1S(=O)(=O)C)C)C | C15H22N4O5S2
reactant | HCl | 4N | Cl | ClH
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | N-[4-(3,3-Dimethyl-1,1-dioxo-isothiazolidin-2-yl)-5-methanesulfonyl-2-methylbenzoyl]guanidine, hydrochloride | 23.9 mg | Cl.CC1(N(S(CC1)(=O)=O)C1=CC(=C(C(=O)NC(=N)N)C=C1S(=O)(=O)C)C)C | InChI=1S/C15H22N4O5S2.ClH/c1-9-7-11(19-15(2,3)5-6-26(19,23)24)12(25(4,21)22)8-10(9)13(20)18-14(16)17;/h7-8H,5-6H2,1-4H3,(H4,16,17,18,20);1H
